US05021398
PREPARATION OF STRONTIUM (II) METHACRYLATE
0.103 Gram (1×10-3 mole) of strontium oxide (prepared by the thermal decomposition of strontium (II) nitrate) was taken in a 100 ml round bottom flask. A solution of 0.280 g of methacrylic acid (3.2×10-3 mole) in 1.1 g of THF was added to it. The sytem was kept for stirring for 12 hrs. The slurry so obtained is soluble in pyridine on sonication.

reactant | strontium oxide | 1×10-3 mole | [O-2].[Sr+2]
reactant | strontium (II) nitrate | [N+](=O)([O-])[O-].[Sr+2].[N+](=O)([O-])[O-]
reactant | methacrylic acid | 3.2×10-3 mole, 0.280 g | C(C(=C)C)(=O)O | C4H6O2
solvent | THF | 1.1 g | C1CCOC1 | C4H8O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | STRONTIUM (II) METHACRYLATE | C(C(=C)C)(=O)[O-].[Sr+2].C(C(=C)C)(=O)[O-] | InChI=1S/2C4H6O2.Sr/c2*1-3(2)4(5)6;/h2*1H2,2H3,(H,5,6);/q;;+2/p-2
